US08222246B2
a) 3-(4-Fluoro-phenyl)-5-((E)-styryl)-isoxazole-4-carboxylic acid
To a solution of 3-(4-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (20.0 g, 80.2 mmol) and benzaldehyde (8.19 mL, 80.2 mmol) in ethanol (113 mL) was added sodium ethoxide (2.71 M, 32.5 mL, 88.3 mmol) and the reaction mixture was heated under reflux for 1 h. Hydrochloric acid (1 N, 96.3 mL) was added and the resulting mixture was extracted with toluene. The solvent was then distilled off to afford the title compound (19.1 g, 77%) as a light yellow solid. MS: m/e=308.0 [M−H]−.

reactant | 3-(4-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 80.2 mmol, 20.0 g | C(C)OC(=O)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H12FNO3
reactant | benzaldehyde | 80.2 mmol, 8.19 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium ethoxide | 88.3 mmol, 2.71 M, 32.5 mL | [O-]CC.[Na+]
reactant | Hydrochloric acid | 1 N, 96.3 mL | Cl | ClH
solvent | ethanol | 113 mL | C(C)O | C2H6O
product | 3-(4-Fluoro-phenyl)-5-((E)-styryl)-isoxazole-4-carboxylic acid | 19.1 g, 77% | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)O)\C=C\C1=CC=CC=C1 | C18H12FNO3
